US07423012B2
Di-t-butyl dicarbonate (30.8 g, 0.141 mol) was added in portions during 5 min to a solution of 5-amino-2-hydroxy-pentanoic acid (17.0 g, 0.128 mol) in 0.5 M NaOH (240 mL) and dioxan (240 mL) at 5° C. The mixture was stirred for 2.5 h at room temperature. During this time 0.5 M NaOH was added to maintain pH 9-10. The dioxan was removed under reduced pressure and the aqueous phase was washed with diethyl ether. The aqueous phase was acidified to pH 2-3 with KHSO4 and extracted with ethyl acetate (3×300 mL). The pooled organic phases was washed with water and brine, dried and concentrated under reduced pressure to give crude 5-tert-butoxycarbonylamino-2-hydroxy-pentanoic acid (22.0 g, 73.7%).

reactant | Di-t-butyl dicarbonate | 0.141 mol, 30.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-amino-2-hydroxy-pentanoic acid | 0.128 mol, 17.0 g | NCCCC(C(=O)O)O | C5H11NO3
solvent | NaOH | 0.5 M, 240 mL | [OH-].[Na+]
solvent | dioxan | 240 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 0.5 M | [OH-].[Na+]
product | 5-tert-butoxycarbonylamino-2-hydroxy-pentanoic acid | 22.0 g, 73.7% | C(C)(C)(C)OC(=O)NCCCC(C(=O)O)O | C10H19NO5
